US07253196B2
2-(2-(1-Adamantylamino)-4-oxo-4,5-dihydrothiazol-5-yl)acetaldehyde
A suspension of 2-(1-adamantylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one (0.25 g, 0.85 mmol) in CH2Cl2 (10 mL) was added to Dess-Martin periodinane (0.56 g, 1.28 mmol, Aldrich) in CH2Cl2 (10 mL). After stirring at ambient temperature for 1 h, the solvent was removed in vacuo. The residue was partitioned between ethyl acetate and saturated aqueous sodium thiosulfate and aqueous sodium bicarbonate. The organic portion was separated, washed with brine, and conc. in vacuo to give the title compound as a light yellowish solid. MS m/z: 293.6 (M+H)+.

reactant | 2-(1-adamantylamino)-5-(2-hydroxyethyl)thiazol-4(5H)-one | 0.85 mmol, 0.25 g | C12(CC3CC(CC(C1)C3)C2)NC=2SC(C(N2)=O)CCO | C15H22N2O2S
reactant | Dess-Martin periodinane | 1.28 mmol, 0.56 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(1-Adamantylamino)-4-oxo-4,5-dihydrothiazol-5-yl)acetaldehyde | C12(CC3CC(CC(C1)C3)C2)NC=2SC(C(N2)=O)CC=O | C15H20N2O2S
